US05466689
4-Amino-3,4-dihydro-6-methoxy-1-p-toluenesulfonylbenz [cd]indol-5(1H)-one hydrochloride
To a suspension of 4-azido-3,4-dihydro-6-methoxy-1-p-toluenesulfonylbenz[cd]indol-5(1H)-one (2.0 g, 5.0 mmol) in ethanol (100 mmol) were added conc. hydrochloric acid (2.5 ml) and 10% palladium-carbon (400 mg). The mixture was stirred for 4 hours at room temperature under hydrogen atmosphere of 3 atmospheres pressure. After completion of the reaction, the catalyst was filtered off. The filtrate was subjected to distillation, and the residue was washed with ethyl ether to give 1.6 g (80%) of crude crystals of the title compound.

reactant | 4-azido-3,4-dihydro-6-methoxy-1-p-toluenesulfonylbenz[cd]indol-5(1H)-one | 5.0 mmol, 2.0 g | N(=[N+]=[N-])C1C(C=2C=3C(=CN(C3C=CC2OC)S(=O)(=O)C2=CC=C(C=C2)C)C1)=O | C19H16N4O4S
reactant | ethanol | 100 mmol | C(C)O | C2H6O
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
catalyst | palladium-carbon | 400 mg | [C].[Pd]
product | 4-Amino-3,4-dihydro-6-methoxy-1-p-toluenesulfonylbenz [cd]indol-5(1H)-one hydrochloride | 1.6 g, 80% | Cl.NC1C(C=2C=3C(=CN(C3C=CC2OC)S(=O)(=O)C2=CC=C(C=C2)C)C1)=O | InChI=1S/C19H18N2O4S.ClH/c1-11-3-5-13(6-4-11)26(23,24)21-10-12-9-14(20)19(22)18-16(25-2)8-7-15(21)17(12)18;/h3-8,10,14H,9,20H2,1-2H3;1H
